US07074819B2
Step 2) Synthesis of 6-[7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman-4-yl]-nonanoic acid
To a solution of 6-[7-hydroxy-3-(4-methoxyphenyl)-3-methylthiochroman-4-yl]-3-nonenoic acid (254 mg, 0.56 mmol) in ethyl acetate (5 ml) was added platinum(IV) oxide hydrate (130 mg, 0.56 mmol) and the mixture was stirred for 16 h at room temperature under hydrogen atmosphere. The catalyst was filtered off and washed with methanol. The filtrate was concentrated and the residue was subjected to flash chromatography on silica gel (ethyl acetate) to give the title compound (222 mg, yield: 87%).

reactant | 6-[7-hydroxy-3-(4-methoxyphenyl)-3-methylthiochroman-4-yl]-3-nonenoic acid | 0.56 mmol, 254 mg | OC1=CC=C2C(C(CSC2=C1)(C)C1=CC=C(C=C1)OC)C(CC=CCC(=O)O)CCC | C26H32O4S
reactant | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
catalyst | platinum(IV) oxide hydrate | 0.56 mmol, 130 mg | O.[Pt](=O)=O
product | 6-[7-methoxy-3-(4-methoxyphenyl)-3-methylthiochroman-4-yl]-nonanoic acid | 222 mg, yield: 87% | COC1=CC=C2C(C(CSC2=C1)(C)C1=CC=C(C=C1)OC)C(CCCCC(=O)O)CCC | C27H36O4S
